US05811553
(R,S)-N-[α-(1-Hydroxyethyl)benzyl]-3-methyl-2-phenylquinoline-4-carboxamide
Prepared as described in Ex. 1, starting from 11.08 g (39.33 mmol) of crude 3-methyl-2-phenylquinoline-4-carbonylchloride, 4.87 g (32.20 mmol) of 1-phenyl-2-hydroxypropylamine and 10.33 ml (74.14 mmol) of TEA in 150 ml of a 1:1 mixture of dry CH2Cl2 and CH3CN.

reactant | 3-methyl-2-phenylquinoline-4-carbonylchloride | 39.33 mmol, 11.08 g | CC=1C(=NC2=CC=CC=C2C1C(=O)Cl)C1=CC=CC=C1 | C17H12ClNO
reactant | 1-phenyl-2-hydroxypropylamine | 32.20 mmol, 4.87 g | C1(=CC=CC=C1)C(C(C)O)N | C9H13NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | (R,S)-N-[α-(1-Hydroxyethyl)benzyl]-3-methyl-2-phenylquinoline-4-carboxamide | O[C@@H](C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)C | C26H24N2O2
